US08877815B2
To a solution of (S)—N-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide (38 mg, 0.09 mmol) in acetone (5 mL) at −78° C. was bubbled ozone for 1 minute with a persistent pale blue color. The mixture was stirred at −78° C. for 5 minutes. To the mixture was bubbled oxygen for 10 minutes then added dimethyl sulfide (0.5 mL) followed by 1 mL of water. The mixture was stirred for 1 hr at room temperature and concentrated under reduced pressure. The obtained mixture was diluted in EtOAc and acidified with 1 M HCl. The organic layer was washed with water, brine, dried over MgSO4, filtered and concentrated under reduced pressure. The obtained residue was purified with RP-HPLC (SunFire C8, H2O (0.1% TFA)/CH3CN) to give (S)-2-(1-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamoyl)cyclopentyl)acetic acid (27 mg). HPLC retention time=1.44 minutes (condition B); MS (m+1)=409.0; 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 1.33-1.63 (m, 6H), 1.72-1.94 (m, 2H), 2.60 (d, J=16.4 Hz, 1H), 2.73 (d, J=4.8 Hz, 3H), 2.73 (d, J=16.4 Hz, 1H), 2.97 (dd, J=14.1, 10.4 Hz, 1H), 3.39 (dd, J=14.1, 4.5 Hz, 1H), 4.58-4.76 (m, 1H), 6.70 (d, J=7.6 Hz, 1H), 7.09 (br. s., 1H), 7.34 (d, J=8.3 Hz, 2H), 7.38 (t, J=7.3 Hz, 1H), 7.43-7.51 (m, 2H), 7.59 (d, J=8.1 Hz, 2H), 7.62-7.67 (m, 2H).

reactant | (S)—N-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-yl)-1-(2-chloroallyl)cyclopentanecarboxamide | 0.09 mmol, 38 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)NC)NC(=O)C1(CCCC1)CC(=C)Cl)C1=CC=CC=C1 | C25H29ClN2O2
reactant | ozone | O=[O+][O-] | O3
reactant | acetone | 5 mL | CC(=O)C | C3H6O
product | (S)-2-(1-(3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamoyl)cyclopentyl)acetic acid | 27 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)NC)NC(=O)C1(CCCC1)CC(=O)O)C1=CC=CC=C1 | C24H28N2O4
